### PR TITLE
feat(Geometry/Convex/Cone): linear span of conic span of set equals linear span of set

### PR DESCRIPTION
**Pull request by bjornsolheim**
* Prove that the linear span of the conic span of a subset equals the linear span of the subset.
* This is a specialization of `Submodule.span_span_of_tower` to pointed cones.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Convex/Cone/Pointed.lean [hunk 1]
```diff
@@ -126,6 +126,14 @@ lemma mem_span_set {s : Set E} : x ∈ span R s ↔
   · rintro ⟨c, hc, hc₀, rfl⟩
     exact ⟨⟨c.support, fun y ↦ ⟨c y, hc₀ _⟩, by simp⟩, hc, rfl⟩
 
+/-- The linear span of the conic span of `s` equals the linear span of `s`.
+This is a specialization of `Submodule.span_span_of_tower` to pointed cones. -/
+lemma span_span_eq_span (s : Set E) :
+    Submodule.span R (PointedCone.span R s : Set E) = Submodule.span R s := by
+  letI : SMul R≥0 R := ⟨fun ⟨c, _⟩ r => c * r⟩
+  letI : IsScalarTower R≥0 R E := ⟨fun ⟨c, _⟩ r m => mul_smul c r m⟩
+  exact Submodule.span_span_of_tower R≥0 R s
```
Comment (ocfnash) [inline Mathlib/Geometry/Convex/Cone/Pointed.lean:135]: Both of these exist as instances. You can check this by writing:
```lean
#synth SMul R≥0 R
#synth IsScalarTower R≥0 R E
```
just above the lemma and Lean will provide clickable link to the instance or you can just delete them and observe as follows:
```suggestion
    Submodule.span R (PointedCone.span R s : Set E) = Submodule.span R s :=
  Submodule.span_span_of_tower R≥0 R s
```
Given the above, as well as the fact that `PointedCone.span` is already an `abbrev` I don't think we should introduce this lemma, since it is just an alias for `Submodule.span_span_of_tower`.

**Review by ocfnash — COMMENTED** [review]
Thanks for your work. Unfortunately I'm going to close this PR since the proposed lemmas ends up just being an alias for `Submodule.span_span_of_tower`.
